US06090797
Tetrahydro-3-furoic acid (2-thiophen-3-yl-ethyl)-amide(3.35 g), POCl3 (4.06 ml) were reacted in toluene (150 ml) exactly as described in example 4. 2.77 g of 4-tetrahydrofuran-3-yl-4,5,-dihydrothieno[2,3-c]pyridine was isolated identified by NMR and MS: M+=207.

reactant | Tetrahydro-3-furoic acid (2-thiophen-3-yl-ethyl)-amide | 3.35 g | S1C=C(C=C1)CCNC(=O)C1COCC1 | C11H15NO2S
reactant | POCl3 | 4.06 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-tetrahydrofuran-3-yl-4,5,-dihydrothieno[2,3-c]pyridine | 2.77 g | O1CC(CC1)C1C2=C(C=NC1)SC=C2 | C11H13NOS
